US07834000B2
2-(3-Isopentyl-4-oxo-2-phenylthiazolidin-5-ylidene)acetic acid
To a solution of ethyl 2-(3-isopentyl-4-oxo-2-phenylthiazolidin-5-ylidene)acetate (0.031 g, 0.1 mmol) and aq. NaOH (0.3 ml of 1 N) in MeOH was stirred at 40° C. for 2 hours. HCl (0.5 ml of 1 N) was added and the MeOH was evaporated. Water and EtOAc was added and the layers separated. The aqueous layer was extracted with EtOAc (2×), all organic layers were combined, dried (MgSO4) and evaporated to dryness to give the desired product as an orange oil (11 mg, 36%).

reactant | ethyl 2-(3-isopentyl-4-oxo-2-phenylthiazolidin-5-ylidene)acetate | 0.1 mmol, 0.031 g | C(CC(C)C)N1C(SC(C1=O)=CC(=O)OCC)C1=CC=CC=C1 | C18H23NO3S
reactant | NaOH | 1 N, 0.3 ml | [OH-].[Na+]
reactant | HCl | 1 N, 0.5 ml | Cl | ClH
solvent | MeOH | CO | CH4O
product | 2-(3-Isopentyl-4-oxo-2-phenylthiazolidin-5-ylidene)acetic acid | 11 mg, 36% | C(CC(C)C)N1C(SC(C1=O)=CC(=O)O)C1=CC=CC=C1 | C16H19NO3S
